US06762330B2
The procedure from Example above was followed using 110 mg (0.609 mmol) of (Me3C)2P—Cl, 67 mg (0.299 mmol) of Pd(OAc)2, 60 mg (3.3 mmol) of H2O, and 3-chloroanisole (1.43 g, 10.0 mm), C6H5B(OH)2 (1.83 g, 15.0 mm) and CsF (4.56 mg, 30.0 mmol) in 15 mL of 1,4-dioxane. After the mixture was refluxed for 42 h, the reaction mixture was then cooled to room temperature, quenched with 50 mL of H2O, and extracted with 300 mL of diethyl ether. The organic extracts were washed with H2O (2×50 mL), brine (50 mL), and dried over mgSO4, filtered, and the ether and dioxane removed from the filtrate by rotary evaporation. The resulting residue was chromatographed on silicon gel using hexane as eluant. The eluate was concentrated by rotary evaporation followed by high vacuum to give 1.49 g (81% yield) of 3-phenylanisole. It was >95% pure by 1H NMR and GC/MS.

reactant | H2O | 3.3 mmol, 60 mg | O | H2O
reactant | 3-chloroanisole | 1.43 g | ClC=1C=C(C=CC1)OC | C7H7ClO
reactant | C6H5B(OH)2 | 1.83 g | C1(=CC=CC=C1)B(O)O | C6H7BO2
reactant | CsF | 30.0 mmol, 4.56 mg | [F-].[Cs+]
solvent | 1,4-dioxane | 15 mL | O1CCOCC1 | C4H8O2
catalyst | Pd(OAc)2 | 0.299 mmol, 67 mg | CC(=O)[O-].CC(=O)[O-].[Pd+2]
catalyst | (Me3C)2P—Cl | 0.609 mmol, 110 mg | P(C(C)(C)C)(C(C)(C)C)Cl | C8H18ClP
product | 3-phenylanisole | 1.49 g, 81% yield | C1(=CC=CC=C1)C=1C=C(C=CC1)OC | C13H12O
